US04317820
5 g of sodium borohydride was added to 66 ml of pyridine having dissolved therein 4.4 g of 2-methyl-4-chloroindole. To the mixture were added gradually 10.6 g of fine powders of aluminum chloride while ice-cooling with stirring. After completion of addition, the mixture was stirred and allowed to react at room temperature for 27 hours, the solvent was removed therefrom under reduced pressure. Water was added to the residue and the mixture was extracted with 100 ml of benzene. The benzene layer was washed with a saturated aqueous sodium chloride solution followed by concentrating. To the residue was added a 10% aqueous hydrochloric acid which caused foaming. After foaming ceased, the mixture was rendered neutral with an aqueous sodium carbonate solution followed by extracting the mixture with 100 ml of benzene. The benzene layer was dried over anhydrous sodium sulfate. After removing the solvent under reduced pressure, the extract was purified through a silica gel column chromatography (eluant:chloroform) to obtain 3.4 g of 2-methyl-4-chloroindoline which was confirmed by NMR.

reactant | sodium borohydride | 5 g | [BH4-].[Na+]
reactant | 2-methyl-4-chloroindole | 4.4 g | CC=1NC2=CC=CC(=C2C1)Cl | C9H8ClN
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | pyridine | 66 ml | N1=CC=CC=C1 | C5H5N
product | 2-methyl-4-chloroindoline | 3.4 g | CC1NC2=CC=CC(=C2C1)Cl | C9H10ClN
